US07173048B2
To 523 mg (2.34 mmol) of 1-benzyl-2-methyl-2,3-dihydro-1H-indole were added 1.28 mL (12 mmol) of hexafluoroacetone sesquihydrate. The mixture was stirred at 80° C. for 4 hrs and then was distributed between Et2O and a saturated aqueous solution of NH4Cl. The combined organic phases were dried over Na2SO4 and evaporated. Column chromatography on silica gel with n-heptane/EtOAc 4:1 yielded 311 mg (34%) of 2-(1-benzyl-2-methyl-2,3-dihydro-1H-indol-5-yl)-1,1,1,3,3,3-hexafluoro-propan-2-ol, light green oil, MS: 388 (M−H)−.

reactant | 1-benzyl-2-methyl-2,3-dihydro-1H-indole | 2.34 mmol, 523 mg | C(C1=CC=CC=C1)N1C(CC2=CC=CC=C12)C | C16H17N
reactant | hexafluoroacetone sesquihydrate | 12 mmol, 1.28 mL | O.FC(C(=O)C(F)(F)F)(F)F.O.O.FC(C(=O)C(F)(F)F)(F)F
reactant | NH4Cl | [NH4+].[Cl-]
solvent | Et2O | CCOCC | C4H10O
product | 2-(1-benzyl-2-methyl-2,3-dihydro-1H-indol-5-yl)-1,1,1,3,3,3-hexafluoro-propan-2-ol | 311 mg, 34% | C(C1=CC=CC=C1)N1C(CC2=CC(=CC=C12)C(C(F)(F)F)(C(F)(F)F)O)C | C19H17F6NO
